US09427406B2
Cetyltriethylammonium Bromide:
Into a 2 L round-bottom flask was placed hexadecyl bromide (250 g), 2-methoxypropanol (250 mL), and triethylamine (200 mL). The flask was heated without stirring at 75° C. for 96 h and the contents were concentrated on a Rotavap at 75° C. and 20 mbar. To the residue, methyl tert-butyl ether (800 mL) was added. The slurry was vigorously stirred by a mechanical stirrer for 12 h, filtered, washed with 3 portions (400 mL each) of methyl tert-butyl ether, and dried in vacuum to obtain the product as a white solid in nearly quantitative yield.

reactant | hexadecyl bromide | 250 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | 2-methoxypropanol | 250 mL | COC(CO)C | C4H10O2
reactant | triethylamine | 200 mL | C(C)N(CC)CC | C6H15N
product | Cetyltriethylammonium Bromide | quantitative yield | [Br-].C(CCCCCCCCCCCCCCC)[N+](CC)(CC)CC | InChI=1S/C22H48N.BrH/c1-5-9-10-11-12-13-14-15-16-17-18-19-20-21-22-23(6-2,7-3)8-4;/h5-22H2,1-4H3;1H/q+1;/p-1
